US04983211
2-Propionyl-3-hydroxy-5-(4-(5-methylsulfonyl-2-pyridyloxy)phenyl)cyclohex-2-en-1-one
A solution of 3.3 g (0.029 mol) of potassium t-butoxide in 40 mL of dimethyl sulfoxide was treated with 3.5 g (0.013 mol) of 2-propionyl-3-hydroxy-5-(4-hydroxyphenyl)cyclohex-2-en-1-one at room temperature. The mixture was stirred for 10 minutes and 4.1 g (0.017 mol) of 2,5-bis(methylsulfonyl)pyridine was added. The resulting mixture was stirred for 1 hour, becoming dark and homogeneous. The mixture was poured into 200 mL of cold, dilute (0.1N) NaOH and washed with 50 mL of diethyl ether. The aqueous alkaline layer was removed and acidified (pH 2) with 1N HCl and the solution was extracted 4 times with 50 mL portions of ethyl acetate. The organic layers were combined and washed with an aqueous saturated NaCl solution, dried over MgSO4, filtered and the solvent removed by evaporation leaving a solid residue. Recrystallization of the residue from a 1:4 ethyl acetate/absolute ethanol mixture gave the above named product as a beige-white solid in a yield of 4.5 g (80 percent of theoretical). The product melted at 163°-164.5° C.; 1H NMR (CDCl3): δ 1.13 (t, 3H, CH3 --), 2.63-3.75 (m includes at 3.07 for CH3SO2 --, 7H ring protons and --CH2CH3), 7.03-7.42 (m, 5H, ArH's), 8.25 (dd, 1H, ArH), 8.77 (d, 1H, ArH), 18.2 (s, 1H, enol H).

reactant | potassium t-butoxide | 0.029 mol, 3.3 g | CC(C)([O-])C.[K+]
reactant | 2-propionyl-3-hydroxy-5-(4-hydroxyphenyl)cyclohex-2-en-1-one | 0.013 mol, 3.5 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)O)=O | C15H16O4
reactant | 2,5-bis(methylsulfonyl)pyridine | 0.017 mol, 4.1 g | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | NaOH | 0.1N | [OH-].[Na+]
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 2-Propionyl-3-hydroxy-5-(4-(5-methylsulfonyl-2-pyridyloxy)phenyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OC1=NC=C(C=C1)S(=O)(=O)C)=O | C21H21NO6S
